* C:\Users\greco\Documents\LTspiceXVII\drafts\LTSpice\RC oscillator, square, triangular and sine.asc
R1 N001 N002 10
R2 N004 N003 10k
R3 N001 N004 100k
C2 N003 N002 0.1µ
V1 VSS 0 -15
V2 VDD 0 15
R4 N003 out 5k
C1 0 out 10n
XU1 0 N002 VDD VSS N003 LTC6244HV
XU2 N004 0 VDD VSS N001 LTC6244HV
.tran 0 10ms 0 1ms startup uic
.lib LTC5.lib
.backanno
.end
